US08071592B2
(f) 1-[2-(4-Amino-1-piperidinyl)ethyl]-5,7-difluoro-2(1H)-quinolinone
1,1-Dimethylethyl {1-[2-(5,7-difluoro-2-oxo-1(2H)-quinolinyl)ethyl]-4-piperidinyl}carbamate (2 g; 4.9 mmol) was dissolved in chloroform (20 ml) and 4M HCl in 1,4-dioxane added (20 ml), this was stirred at rt for 1 h. The salts were then dissolved in MeOH and all solvents removed. The residues were redissolved in MeOH and stirred with amberlyst ion exchange resin until neutral pH was reached, the resin was filtered off and solvents removed. The crude residues were purified by column chromatography on silica gel using a 0-20% 2M NH3:MeOH/DCM gradient to give the desired product (970 mg; 65%).

reactant | 1,1-Dimethylethyl {1-[2-(5,7-difluoro-2-oxo-1(2H)-quinolinyl)ethyl]-4-piperidinyl}carbamate | 4.9 mmol, 2 g | FC1=C2C=CC(N(C2=CC(=C1)F)CCN1CCC(CC1)NC(OC(C)(C)C)=O)=O | C21H27F2N3O3
reactant | HCl | 4M | Cl | ClH
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | MeOH | CO | CH4O
product | 1-[2-(4-Amino-1-piperidinyl)ethyl]-5,7-difluoro-2(1H)-quinolinone | 970 mg, 65% | NC1CCN(CC1)CCN1C(C=CC2=C(C=C(C=C12)F)F)=O | C16H19F2N3O
